US04335141
2-Cyano-N,N'-di(n-decyl)-1,3-propanediamine
To stirred n-decylamine (47.2 g., 0.3 mole) at 20° C. is added dropwise 2-[(N,N-dimethylamino)methyl]-2-propenenitrile (11.0 g., 0.1 mole) over a 3 minute period. The reaction mixture, protected from moisture with an Ascarite drying tube, is stirred at room temperature an additional three hours. It is then heated at 80° C. for 48 hours. The mixture is fractionally distilled under reduced pressure to remove a small amount of unreacted, excess n-decylamine, 2-cyano-N-(n-decyl)-N',N'-dimethyl-1,3-propanediamine as byproduct, and finally the product, 2-cyano-N,N'-di(n-decyl)-1,3-propanediamine.

reactant | n-decylamine | 0.3 mole, 47.2 g | C(CCCCCCCCC)N | C10H23N
reactant | 2-[(N,N-dimethylamino)methyl]-2-propenenitrile | 0.1 mole, 11.0 g | CN(C)CC(C#N)=C | C6H10N2
product | 2-Cyano-N,N'-di(n-decyl)-1,3-propanediamine | C(#N)C(CNCCCCCCCCCC)CNCCCCCCCCCC | C24H49N3
